US05270311
Using a similar procedure to that described in Example 2 but starting from 7-amino-5-methylthio-2-(2-thienyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine and using thiophenol, there was obtained 7-amino-5-phenylthio-2-(2-thienyl)-[1,2,4]triazolo[1,5-a][1,3,51triazine as a solid, m.p. >300° C. (decomposition); microanalysis, found: C, 51.9; H, 3.1; N, 25.6%; C14H10N6S2 requires: C, 51.5; H, 3.1; N, 25.8%; NMR 7.20(dd, 1H, thienyl-4H), 7.4-7.8(complex, 1H, phenyl-H, thienyl-3H,5H) and 8.83(d, 2H, NH2).

reactant | 7-amino-5-methylthio-2-(2-thienyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine | NC1=NC(=NC=2N1N=C(N2)C=2SC=CC2)SC | C9H8N6S2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 7-amino-5-phenylthio-2-(2-thienyl)-[1,2,4]triazolo[1,5-a][1,3,51triazine | NC1=NC(=NC=2N1N=C(N2)C=2SC=CC2)SC2=CC=CC=C2 | C14H10N6S2
